US06451814B1
Step B Methyl 2-[4-(aminomethyl)-3-fluorophenoxy]acetate
[4-(tert-Butoxycarbonylamino-methyl)-3-fluoro-phenoxy]-acetic acid methyl ester (0.94 g, 3.0 mmol) was dissolved in formic acid (13 mL) and heated to 60° C. for 1 hour. The solvent was removed under vacuo and the residue repeatedly co-evaporated with chloroform and ethanol. The residue was dissolved in ethyl acetate washed with saturated sodium bicarbonate. The organic phase was dried over anhydrous sodium sulfate, filtered, and evaporated in vacuo to give the title compound (0.56 g, 2.6 mmol).

reactant | [4-(tert-Butoxycarbonylamino-methyl)-3-fluoro-phenoxy]-acetic acid methyl ester | 3.0 mmol, 0.94 g | COC(COC1=CC(=C(C=C1)CNC(=O)OC(C)(C)C)F)=O | C15H20FNO5
solvent | formic acid | 13 mL | C(=O)O | CH2O2
product | Methyl 2-[4-(aminomethyl)-3-fluorophenoxy]acetate | 2.6 mmol, 0.56 g | NCC1=C(C=C(OCC(=O)OC)C=C1)F | C10H12FNO3
